2198-03-25 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: facial mass bleeding
   24 Hour Events:
   - transferred to ICU for rebleed
   - tamponaded
   - no embolization b/c of patient's previous wishes and inability to
   contact family
   - received a total of 4 U pRBCs
   - began bleeding slowly again
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-25**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 62 (62 - 80) bpm
   BP: 115/61(73) {97/57(69) - 137/74(87)} mmHg
   RR: 21 (17 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
           Total In:
                                                                  1,893 mL
                                                                  1,169 mL
   PO:
                                                                    180 mL
           TF:
   IVF:
                                                                    838 mL
                                                                    663 mL
   Blood products:
                                                                    875 mL
                                                                    506 mL
   Total out:
                                                                    515 mL
                                                                    925 mL
   Urine:
                                                                    515 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,378 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   GENERAL: Face wrapped in bandage, wrapped around entire head, c/d/i.
   HEENT: Large Fungating mass encompassing nearly entire right side of
   face, invading right orbit.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis tibial pulses,
   extremities warm.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: Awake, alert, answering questions. AOx1.
   Labs / Radiology
   535 K/uL
   10.0 g/dL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.1 mEq/L
   9 mg/dL
   111 mEq/L
   146 mEq/L
   28.9 %
   60.7 K/uL
        [image002.jpg]
                             [**2198-3-17**]  10:02 AM
                             [**2198-3-17**]  03:40 PM
                             [**2198-3-18**]  03:23 AM
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
                             [**2198-3-19**]  04:32 PM
                             [**2198-3-20**]  04:06 AM
                             [**2198-3-24**]  05:28 PM
                             [**2198-3-24**]  10:07 PM
                             [**2198-3-25**]  05:57 AM
   WBC
   39.7
   43.1
   42.7
   60.7
   Hct
   25.1
   24.8
   24.4
   23.3
   25.5
   26.2
   27.2
   25.7
   28.9
   Plt
   364
   394
   398
   535
   Cr
   0.7
   0.7
   0.7
   0.9
   TCO2
   27
   Glucose
   118
   121
   138
   105
   Other labs: PT / PTT / INR:15.9/28.7/1.4, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:11.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   57M with squamous carcinoma involvement of right face and hostory of
   facial bleeding, DNR/DNI, tranferred from floor with repeat bleeding,
   now tamponaded.
   .
   #.Facial Bleeding: From large fungating growth of squamous cell
   carcinoma. The patient is s/p 4U transfused blood. His BP and HR are
   stable.
   -Wound is wrapped,
   -follow Hct q 6 hrs, transfuse while actively bleeding.
   -Support BP with saline and prbcs
   -will need another discussion with family re: goals of care.  He will
   likely bleed again regardless of whether he gets embolized or not.  In
   addition, he would require intubation for embolization and he has
   previously documented DNR/DNI.  Will need family discussion re: goals
   of care ASAP.
   .
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA.
   S/P full course of vanc/zosyn for VAP, which also covers OSH
   sensitivities.  Started on keflex on the floor for increased WBC and
   confusion.  Afebrile though with elevated WBC from previous.
   - culture, hold off antibiotics unless positive culture data
   .
   #. AMS: waxing and [**Doctor Last Name 282**], c/w delirium, though currently he is alert.
   ? from underlying neoplastic process, other metabolic abnormalities
   including hypercalcemia, or underlying psych issues.  Afebrile, though
   infection in wound is possible.  Also, dilaudid has been written for
   him on the floor.
   - hold sedating meds and try to treat pain through other methods
   - follow
   .
   #. Leukocytosis- likely leukemoid rxn but perhaps some effect of infxn
   as well. Will continue to trend
   .
   #. Hypercalcemia- likely [**2-19**] paraneoplastic process.  Received
   pamidronate x 1.
   - IVF
   .
   # hypernatremia: replace free H2O
   .
   # FEN: NPO for now given AMS
   .
   # PPX- Bowel regimen. pneumoboots. PPI. Avoiding anticoagulation
   .
   # Code- DNR/[**Name (NI) 4616**] Sister is HCP
   .
   # ACCESS: PIV
   .
   # DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-3-24**] 05:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2198-03-26 07:32:00 Physician Resident Progress Note
Chief Complaint: Bleeding from facial mass
   24 Hour Events:
   [**3-25**] events:
   - hematocrit stable at ~31
   - Sister updated; agreed for no invasive procedure that would require
   embolization. Sister plans to visit hospice facility on [**Hospital3 373**] this
   Wednesday.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsMorphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2198-3-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 75 (65 - 80) bpm
   BP: 139/68(85) {102/56(70) - 139/72(85)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
                  Total In:
                                                                  3,049 mL
                  PO:
                  TF:
   IVF:
                                                                  2,063 mL
   Blood products:
                                                                    506 mL
   Total out:
                                                                  3,325 mL
                                                                    745 mL
   Urine:
                                                                  3,325 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -277 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, malnourished
   HEENT: Large R facial mass, bandaged with tamponade dressing in place;
   L pupil 4mm and reactive, unable to assess R pupil [**2-19**] edema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   544 K/uL
   10.5 g/dL
   100 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   8 mg/dL
   108 mEq/L
   140 mEq/L
   32.0 %
   64.6 K/uL
        [image002.jpg]
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
                             [**2198-3-19**]  04:32 PM
                             [**2198-3-20**]  04:06 AM
                             [**2198-3-24**]  05:28 PM
                             [**2198-3-24**]  10:07 PM
                             [**2198-3-25**]  05:57 AM
                             [**2198-3-25**]  09:35 AM
                             [**2198-3-25**]  05:06 PM
                             [**2198-3-26**]  03:53 AM
   WBC
   43.1
   42.7
   60.7
   64.6
   Hct
   24.4
   23.3
   25.5
   26.2
   27.2
   25.7
   28.9
   30.3
   31.0
   32.0
   Plt
   394
   398
   535
   544
   Cr
   0.7
   0.7
   0.9
   0.9
   Glucose
   121
   138
   105
   100
   Other labs: PT / PTT / INR:15.9/28.7/1.4, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:11.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   57M with squamous carcinoma involvement of right face and hostory of
   facial bleeding, DNR/DNI, tranferred from floor with repeat bleeding,
   now tamponaded with pressure dressing.
   .
   #.Facial Bleeding: From large fungating growth of squamous cell
   carcinoma. The patient is s/p 4U transfused blood on [**2198-3-24**]. His BP and
   HR are stable. Hct this AM 32, after no further transfusions.
   -Wound is wrapped,
   -follow Hct q 6 hrs, transfuse while actively bleeding.
   -Support BP with saline and prbcs
   -will need another discussion with family re: goals of care.  He will
   likely bleed again regardless of whether he undergoes embolization or
   not.  In addition, he would require intubation for embolization and he
   has previously documented DNR/DNI.  Will need family discussion re:
   goals of care ASAP, discussion yesterday with sister [**Name (NI) 117**] is for no
   invasive procedures, including intubation.  Sister is screening hospice
   facilities.
   -Palliative care continues to follow
   .
   #. Wound: Cultured with acinetobacter, enterobacter cloacae, and MSSA.
   S/P full course of vanc/zosyn for VAP, which also covers OSH
   sensitivities.  Started on keflex on the floor for increased WBC and
   confusion.  Afebrile though with elevated WBC from previous.
   - culture, hold off antibiotics unless positive culture data
   .
   #. AMS: waxing and [**Doctor Last Name 282**], c/w delirium, though currently he is alert.
   ? from underlying neoplastic process, other metabolic abnormalities
   including hypercalcemia, or underlying psych issues.  Afebrile, though
   infection in wound is possible.   CNS infection also a possibility.
   - hold sedating meds if possible but keep pt comfortable
   - watch Calcium and treat for hyperCa with IVF, has already received
   Pamidronate x 1
   - follow
   .
   #. Leukocytosis- possible leukemoid rxn but infection is in
   differential as well. Rising steadily to 64 today.
   - Send stool for C diff
   - Follow up cx data
   - Currently on NO antibiotics
   .
   #. Hypercalcemia- likely [**2-19**] paraneoplastic process.  Received
   pamidronate x 1.
   - IVF
   .
   # hypernatremia: replace free H2O as needed, Na today 140.
   .
   # FEN: NPO for now given AMS. Start D51/2 NS at 75cc/hr.
   .
   # PPX- Bowel regimen. pneumoboots. PPI. Avoiding anticoagulation given
   bleeding issues.
   .
   # Code- DNR/[**Name (NI) 4616**] Sister is HCP
   .
   # ACCESS: PIV
   .
   # DISPOSITION: Stable for transfer to the floor today with sitter.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-3-24**] 05:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2198-03-26 13:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hct stable overnight. Discussion with sister concluded would not persue
   further embolization or intubation.
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-26**] 01:00 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 75 (65 - 81) bpm
   BP: 103/58(69) {92/56(69) - 139/72(85)} mmHg
   RR: 22 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 78 Inch
             Total In:
                                                                  3,049 mL
                                                                    435 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                  2,063 mL
                                                                    195 mL
   Blood products:
                                                                    506 mL
   Total out:
                                                                  3,325 mL
                                                                  1,355 mL
   Urine:
                                                                  3,325 mL
                                                                  1,355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -277 mL
                                                                   -920 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: large R cheek mass
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   544 K/uL
   100 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.3 mEq/L
   8 mg/dL
   108 mEq/L
   140 mEq/L
   32.0 %
   64.6 K/uL
        [image002.jpg]
                             [**2198-3-18**]  04:40 PM
                             [**2198-3-19**]  03:30 AM
                             [**2198-3-19**]  04:32 PM
                             [**2198-3-20**]  04:06 AM
                             [**2198-3-24**]  05:28 PM
                             [**2198-3-24**]  10:07 PM
                             [**2198-3-25**]  05:57 AM
                             [**2198-3-25**]  09:35 AM
                             [**2198-3-25**]  05:06 PM
                             [**2198-3-26**]  03:53 AM
   WBC
   43.1
   42.7
   60.7
   64.6
   Hct
   24.4
   23.3
   25.5
   26.2
   27.2
   25.7
   28.9
   30.3
   31.0
   32.0
   Plt
   394
   398
   535
   544
   Cr
   0.7
   0.7
   0.9
   0.9
   Glucose
   121
   138
   105
   100
   Other labs: PT / PTT / INR:15.9/28.7/1.4, Differential-Neuts:95.6 %,
   Lymph:1.9 %, Mono:1.4 %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.3
   g/dL, Ca++:11.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 IMPAIRED SKIN INTEGRITY
 CANCER (MALIGNANT NEOPLASM), OTHER
   Plan:
   1. SCC bleed: Now stopped, not offering reintubation or embolization
   -calling [**First Name8 (NamePattern2) 4663**] [**Last Name (un) 4664**]
   -plan meeting with family about goals of care
   -palliative care
   -hold off on dressing changes
   2. Hypercalcemia: IVF
   -allow po intake for comfort
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2198-3-24**] 05:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   57 year old male with large, uncurable and unsurgically respectable
   squamous cell carcinoma of the face.  He was intubated for procedure to
   cauterize sphenopalatine artery bleed complicated by VAP, improved,
   extubated and sent to the floor.  Now returns because bleeding from his
   tumor but has currently stopped.
   T 37  P 79  BP 103/58   RR 20  Sat 96%
   On exam, large right sided facial tumor, alert awake
   Lungs: CTA
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Neuro: awake, alert
   A:
   1)       Incurable Squamous Cell Carcinoma of the face
   2)       Recurrent Bleeding from carcinoma
   3)       Previously established DNR/DNI status
   Plan:  Bleeding is currently stopped and no need for any further
   intervention at this time.  However, given the incurable and
   unfortunately progressive nature of his tumor, there is not much that
   can be done to stop this progressive process.  We attempted to hold a
   family meeting today but were unable and patient has little insight
   into his condition, however the hospice approach appears to be most
   reasonable under the given unfortunate circumstances.
   Time spent: 15 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2198-3-26**] 07:54 PM ------